US07608627B2
1H-pyrrolo[2,3-c]pyridine-2-carboxaldehyde (180 mg, 1.23 mmol) was dissolved in tetrahydrofuran (6 mL) under a nitrogen atmosphere. p-Tolylmagnesium bromide in tetrahydrofuran (2.48 mL, 2.48 mmol) was added dropwise. After stirring for 3 h, the reaction mixture was quenched by pouring into a 2:1 solution of saturated ammonium chloride and water, then extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with water and then brine, dried over sodium sulfate, and concentrated to provide the crude material. Purification by Biotage chromatography (silica, 0 to 18% methanol in methylene chloride) to provide (4-methylphenyl)(1H-pyrrolo[2,3-c]pyridin-2-yl)methanol (226 mg, 77%) as an off-white solid: mp 78-82° C.; 1H NMR (500 MHz, CD3OD) δ2.32 (3H, s), 5.95 (1H, s), 6.36 (1H, s), 7.17 (2H, d, J=7.9 Hz), 7.34 (2H, d, 8.0 Hz), 7.51 (1H, m), 8.00 (1H, d, J=5.6 Hz), 8.59 (1H, s); ESI MS m/z 239 [C15H14N2+H]+; HPLC (Method A) >99% (AUC), tR=15.1 min.

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxaldehyde | 1.23 mmol, 180 mg | N1C(=CC=2C1=CN=CC2)C=O | C8H6N2O
reactant | p-Tolylmagnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.48 mmol, 2.48 mL | O1CCCC1 | C4H8O
product | (4-methylphenyl)(1H-pyrrolo[2,3-c]pyridin-2-yl)methanol | 226 mg, 77% | CC1=CC=C(C=C1)C(O)C1=CC=2C(=CN=CC2)N1 | C15H14N2O
